US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, (0.283 g, 1.31 mmol) was reacted with 2-azidoethanamine (0.113 g, 1.31 mmol) and triethylamine (0.264 g, 2.61 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)biphenyl-4-carboxamide (0.297 g, 85%). 1H NMR (300 MHz, CDCl3) δ 7.88 (d, 2H), δ 7.67 (m, 4H), δ 7.44 (m, 3H), δ 6.63 (s, 1H), δ 3.67 (q, 2H), δ (3.58 (t, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 167.8, 144.8, 140.1, 132.9, 129.2, 128.3, 127.8, 127.5, 127.4, 51.2, 39.7 ppm; HRMS (ESI) calcd for C15H14N4O (M+) 266.1168. found 266.1162.

reactant | N-(2-azidoethyl)tetradecanamide | 1.31 mmol, 0.283 g | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 2-azidoethanamine | 1.31 mmol, 0.113 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.61 mmol, 0.264 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)biphenyl-4-carboxamide | 0.297 g, 85% | N(=[N+]=[N-])CCNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C15H14N4O
